US04946841
1,2-di(4-fluorophenyl)ethanol
Under a nitrogen atmosphere, 2.04 g (0.08 mol) of magnesium are covered with ether. 12.2 g (0.08 mol) of 4-fluorobenzyl chloride in 20 ml of ether are added dropwise to this in such a way that the ether boils gently. After addition is complete, the mixture is refluxed for a further 30 minutes, cooled to room temperature, and 8.3 g (0.07 mol) of 4-fluorobenzaldehyde in 20 ml of ether are slowly added dropwise. It may be necessary to cool with ice-water if the solution boils. After addition is complete, the mixture is left to reflux for 2 hours, then cooled and poured into 50 ml of ice-water. 50% concentrated hydrochloric acid is used to acidify, the phases are separated, and the aqueous phase is extracted 5 x with ether. The combined org. phases are neutralized with saturated sodium bicarbonate solution, washed with saturated sodium chloride solution, dried over magnesium sulfate and evaporated. The colorless oil crystallizes completely and yields 15.7 g of white crystals.

reactant | magnesium | 0.08 mol, 2.04 g | [Mg] | Mg
reactant | 4-fluorobenzyl chloride | 0.08 mol, 12.2 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | 4-fluorobenzaldehyde | 0.07 mol, 8.3 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1,2-di(4-fluorophenyl)ethanol | 15.7 g | FC1=CC=C(C=C1)C(CC1=CC=C(C=C1)F)O | C14H12F2O
